US04329367
The starting material is prepared as follows: The stirring mixture of 45 g of dl-p-benzyloxyamphetamine, 81 g of 3,3-diphenylpropionic anhydride, 800 ml of benzene and 8 drops of concentrated sulfuric acid is refluxed for 18 hours. It is cooled, washed with aqueous sodium bicarbonate, water, dried and evaporated. The residue is recrystallized from ethyl acetate to afford the dl-1-(p-benzyloxyphenyl)-2-(3,3-diphenylpropionamido)-propane, melting at 121°-125°.

reactant | p-benzyloxyamphetamine | C(C1=CC=CC=C1)OC1=CC=C(CC(N)C)C=C1 | C16H19NO
reactant | 3,3-diphenylpropionic anhydride | 81 g | C1(=CC=CC=C1)C(CC(=O)OC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C30H26O3
catalyst | sulfuric acid | 8 drops | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 800 ml | C1=CC=CC=C1 | C6H6
product | 1-(p-benzyloxyphenyl)-2-(3,3-diphenylpropionamido)-propane | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C)NC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H31NO2
